US07291632B2
2,4,6-Trifluoro-N-(2-fluoro-3-(methyl-(1-methyl-piperidin-4-yl)-amino)-phenyl)-benzamide
Heat a mixture of 2-fluoro-N-methyl-N-(1-methyl-piperidin-4-yl)-benzene-1,3-diamine (Preparation 22, 60 mg) and 2,4,6-trifluorobenzoyl chloride (59 mg) in 1,4-dioxane (5 mL) for 2 hr. Dilute the reaction mixture with methanol (5 mL) and load on a SCX column (10 g). After wash with methanol, elute the product with 2M NH3 in methanol, evaporate and purify on a silica gel column (4 g, solvent: dichloromethane-2M NH3 in methanol, gradient) to give 94 mg of the title compound: mass spectrum (electric spray) m/z=396 (M+1); 1H NMR (CDCl3): 7.96 (m, 1H), 7.84 (br s, 1H), 7.05 (m, 1H), 6.79 (m, 3H), 3.48 (d, 1H), 3.16 (m, 3H), 2.91 (br d, 2H), 2.74 (s, 3H), 2.27 (s, 3H), 1.97 (m, 2H), 1.84 (m, 2H), 1.72 (m, 2H).

reactant | 2-fluoro-N-methyl-N-(1-methyl-piperidin-4-yl)-benzene-1,3-diamine | 60 mg | FC1=C(C=CC=C1N)N(C1CCN(CC1)C)C | C13H20FN3
reactant | 2,4,6-trifluorobenzoyl chloride | 59 mg | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | 2,4,6-Trifluoro-N-(2-fluoro-3-(methyl-(1-methyl-piperidin-4-yl)-amino)-phenyl)-benzamide | 94 mg | FC1=C(C(=O)NC2=C(C(=CC=C2)N(C2CCN(CC2)C)C)F)C(=CC(=C1)F)F | C20H21F4N3O
